US08497278B2
(6,8-Dichloro-2-p-tolyl-imidazo[1,2-a]pyridin-3-ylmethyl)-(4,6-dimethyl-pyrimidin-2-yl)-amine (172)
The title compound was prepared according to Method A and the experimentals described for compound 139 from 6,8-dichloro-3-(chloromethyl)-2-p-tolylimidazo[1,2-a]pyridine hydrochloride and 4,6-dimethylpyrimidin-2-amine. m/e+ 412 for C21H20Cl2N5 [M+H]+; 1H-NMR (400 MHz, CDCl3) δ 8.85 (d, J=1.4 Hz, 1H), 7.64 (d, J=8.0 Hz, 2H), 7.48 (d, J=7.7 Hz, 1H), 7.25 (d, J=8.0 Hz, 2H), 7.14 (d, J=7.7 Hz, 1H), 6.41 (s, 1H), 5.02 (s, 2H), 2.40 (s, 3H), 2.36 (s, 3H), 2.33 (s, 3H) ppm.

reactant | 6,8-dichloro-3-(chloromethyl)-2-p-tolylimidazo[1,2-a]pyridine hydrochloride | Cl.ClC=1C=C(C=2N(C1)C(=C(N2)C2=CC=C(C=C2)C)CCl)Cl
reactant | 4,6-dimethylpyrimidin-2-amine | CC1=NC(=NC(=C1)C)N | C6H9N3
product | (6,8-Dichloro-2-p-tolyl-imidazo[1,2-a]pyridin-3-ylmethyl)-(4,6-dimethyl-pyrimidin-2-yl)-amine | ClC=1C=C(C=2N(C1)C(=C(N2)C2=CC=C(C=C2)C)CNC2=NC(=CC(=N2)C)C)Cl | C21H19Cl2N5
